US08492548B2
2-Bromo-2-phenylacetic acid (1.86 g, 8.65 mmol) was added to a solution of allyl 3-aminobenzoate (2.30 g, 13.0 mmol) and DIPEA (2.27 ml, 13.0 mmol) in acetonitrile (48 ml). The reaction was heated at 100° C. for 1 hour under microwave irradiation. The solvent was removed in vacuo and the residue was purified by flash chromatography (DCM/MeOH=95/5) to obtain 2-(3-(allyloxycarbonyl)phenylamino)-2-phenylacetic acid (2.65 g, 98% yield).

reactant | 2-Bromo-2-phenylacetic acid | 8.65 mmol, 1.86 g | BrC(C(=O)O)C1=CC=CC=C1 | C8H7BrO2
reactant | allyl 3-aminobenzoate | 13.0 mmol, 2.30 g | NC=1C=C(C(=O)OCC=C)C=CC1 | C10H11NO2
reactant | DIPEA | 13.0 mmol, 2.27 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 48 ml | C(C)#N | C2H3N
product | 2-(3-(allyloxycarbonyl)phenylamino)-2-phenylacetic acid | 2.65 g, 98% yield | C(C=C)OC(=O)C=1C=C(C=CC1)NC(C(=O)O)C1=CC=CC=C1 | C18H17NO4
